US05696111
N-(2,5-dioxo-3,4-dihydro-1H-benzo[b]azepin-3-yl)-3-(2,4 dichlorophenyl)-propionamide
A 100 mL round bottom flask was charged with 3-amino-3,4-dihydro-1H-benzo[b]azepin-2,5-dione (4 g, 17.6 mmole), EDC (3.38 g, 17.6 mmole), HOBT (2.38 g, 17.6 mmole), 2,4-dichlorophenyl propionic acid (3.86 g, 17.6 mmole), Dimethylformamide (100 mL), and triethylamine (1.78 g, 17.6 mmole). The reaction mixture was stirred at room temperature for 1 hr. and then poured into saturated sodium bicarbonate (500 mL). The aqueous mixture was extracted with ethyl acetate (3×200 mL). The combined organics were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure. The resulting solid was swished with a minimum of hot chloroform and filtered to give the product, 5.8 g (84%) mp 234°-236° C.

reactant | 3-amino-3,4-dihydro-1H-benzo[b]azepin-2,5-dione | 17.6 mmole, 4 g | NC1CC(C2=C(NC1=O)C=CC=C2)=O | C10H10N2O2
reactant | EDC | 17.6 mmole, 3.38 g
reactant | HOBT | 17.6 mmole, 2.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,4-dichlorophenyl propionic acid | 17.6 mmole, 3.86 g | ClC1=C(C=CC(=C1)Cl)C(C(=O)O)C | C9H8Cl2O2
reactant | triethylamine | 17.6 mmole, 1.78 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
solvent | Dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | N-(2,5-dioxo-3,4-dihydro-1H-benzo[b]azepin-3-yl)-3-(2,4 dichlorophenyl)-propionamide | O=C1C(CC(C2=C(N1)C=CC=C2)=O)NC(CCC2=C(C=C(C=C2)Cl)Cl)=O | C19H16Cl2N2O3
